US07820825B2
A solution of methyl 4-((1H-benzo[d]imidazol-2-yl)methyl)benzoate (200 mg, 0.75 mmol) in acetonitrile was treated with (2-bromoethyl)benzene (209 mg, 1.13 mmol) and potassium carbonate (143 mg, 0.90 mmol). The reaction mixture was heated with microwave irradiation at 100° C. for 2 h. The solvent was removed under reduced pressure and the residue was partitioned between water and dichloromethane. The organic phase was separated, dried over sodium sulfate and concentrated in vacuo. Purification of the resultant residue by flash column chromatography (silica, petroleum ether:ethyl acetate 8:2 to 1:1) afforded 4-(1-phenethyl-1H-benzoimidazol-2-ylmethyl)-benzoic acid methyl ester (30%). [M+H] 371.2.

reactant | methyl 4-((1H-benzo[d]imidazol-2-yl)methyl)benzoate | 0.75 mmol, 200 mg | N1C(=NC2=C1C=CC=C2)CC2=CC=C(C(=O)OC)C=C2 | C16H14N2O2
reactant | (2-bromoethyl)benzene | 1.13 mmol, 209 mg | BrCCC1=CC=CC=C1 | C8H9Br
reactant | potassium carbonate | 0.90 mmol, 143 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(1-phenethyl-1H-benzoimidazol-2-ylmethyl)-benzoic acid methyl ester | 30% | COC(C1=CC=C(C=C1)CC1=NC2=C(N1CCC1=CC=CC=C1)C=CC=C2)=O | C24H22N2O2
